US04721784
6-(3,4-Dihydro-4-methanesulfonyl-1,4(2H)-benzoxazin-6yl)-2,3,4,5-tetrahydro-2-(2-propenyl)pyridazin-3-one
6-(3,4-Dihydro-4-methanesulfonyl-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydropyridazin-3-one was reacted with allyl bromide instead of methyl iodide, following the procedure of Example 9. The title compound was recovered, yield 2.03 g, mp 153°-155° C.

reactant | 6-(3,4-Dihydro-4-methanesulfonyl-1,4(2H)-benzoxazin-6-yl)-2,3,4,5-tetrahydropyridazin-3-one | CS(=O)(=O)N1CCOC2=C1C=C(C=C2)C=2CCC(NN2)=O | C13H15N3O4S
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 6-(3,4-Dihydro-4-methanesulfonyl-1,4(2H)-benzoxazin-6yl)-2,3,4,5-tetrahydro-2-(2-propenyl)pyridazin-3-one | CS(=O)(=O)N1CCOC2=C1C=C(C=C2)C=2CCC(N(N2)CC=C)=O | C16H19N3O4S
